US08629143B2
A solution of (2-(ethoxycarbonyl)phenyl)zinc(II) bromide (2.2 mL, 1.1 mmol) was added to a mixture of 1-phenylcyclopropanecarbonyl chloride (0.200 g, 1.1 mmol) and Pd(PPh3)4 (0.0644 g, 0.056 mmol) in THF (1.1 mL), stirred for 2 hours, diluted with EtOAc, washed with 1N HCl and brine, dried (Na2SO4), filtered, and chromatographed (20% Et2O/hexanes) to give 216.2 mg of impure ethyl 2-(1-phenylcyclopropanecarbonyl)benzoate. A mixture of impure ethyl 2-(1-phenylcyclopropanecarbonyl)benzoate (0.216 g, 0.735 mmol) and hydrazine hydrate (0.13 mL, 2.298 mmol) in ethanol (3 mL) was stirred at 75° C. overnight, and concentrated to give 179.7 mg of impure 4-(1-phenylcyclopropyl)phthalazin-1(2H)-one, which was treated with O-(diphenylphosphoryl)hydroxylamine using a method similar to that described in Example 1B to give impure 2-amino-4-(1-phenylcyclopropyl)phthalazin-1(2H)-one.

reactant | (2-(ethoxycarbonyl)phenyl)zinc(II) bromide | 1.1 mmol, 2.2 mL | [Br-].C(C)OC(=O)C1=C(C=CC=C1)[Zn+]
reactant | 1-phenylcyclopropanecarbonyl chloride | 1.1 mmol, 0.200 g | C1(=CC=CC=C1)C1(CC1)C(=O)Cl | C10H9ClO
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.056 mmol, 0.0644 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-(1-phenylcyclopropanecarbonyl)benzoate | 216.2 mg | C1(=CC=CC=C1)C1(CC1)C(=O)C1=C(C(=O)OCC)C=CC=C1 | C19H18O3
